US06576627B1
Isobutylaldehyde (2.8 ml) was dissolved in tetrahydrofuran (10 ml), and the solution was added with 4-methoxybenzylamine (1 ml) and then stirred at 60° C. for 2 hours. The imine generation was observed by 1H-NMR, and then the reaction mixture was concentrated under reduced pressure to obtain crude (4-methoxybenzyl)-N-(2-methylpropylidene)amine.

reactant | 4-methoxybenzylamine | 1 ml | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (4-methoxybenzyl)-N-(2-methylpropylidene)amine | COC1=CC=C(CN=CC(C)C)C=C1 | C12H17NO
